### PR TITLE
[Merged by Bors] - chore: forward-port leanprover-community/mathlib#18616

### PR DESCRIPTION
**Pull request by eric-wieser**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/TensorProductBasis.lean [hunk 1]
```diff
@@ -54,5 +54,12 @@ theorem Basis.tensorProduct_apply' (b : Basis ι R M) (c : Basis κ R N) (i : ι
     Basis.tensorProduct b c i = b i.1 ⊗ₜ c i.2 := by simp [Basis.tensorProduct]
 #align basis.tensor_product_apply' Basis.tensorProduct_apply'
 
-end CommRing
+-- Porting note: resolved diamond
+set_option synthInstance.etaExperiment true in
+@[simp]
+theorem Basis.tensorProduct_repr_tmul_apply (b : Basis ι R M) (c : Basis κ R N) (m : M) (n : N)
+    (i : ι) (j : κ) : (Basis.tensorProduct b c).repr (m ⊗ₜ n) (i, j) = b.repr m i * c.repr n j := by
```
Comment (RemyDegenne) [inline Mathlib/LinearAlgebra/TensorProductBasis.lean:61]: To make it easier to quickly spot the conclusion of the lemma:
```suggestion
    (i : ι) (j : κ) :
    (Basis.tensorProduct b c).repr (m ⊗ₜ n) (i, j) = b.repr m i * c.repr n j := by
```

**Review by RemyDegenne — APPROVED** [review]
Thanks!
bors d+

File: Mathlib/LinearAlgebra/TensorProductBasis.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/TensorProductBasis.lean:61]: This is just the mathport output; it would be nice if it had this heuristic internall (cc @digama0)

Either way, happy to make the change.

**Comment by eric-wieser** [comment]
bors merge
